US07622464B2
Description 45: 5-[(2,2,2-Trifluoroacetylamino)methyl]-thiophene-3-carboxylic acid methylamide
To suspension of N-methyl-3-thiophenecarboxamide (1.12 g) (prepared according to J. Org. Chem. (1976), 41(23), 3668-74) in concentrated aqueous sulphuric acid (25 ml) at 0-5° C. was added N-(hydroxymethyl)trifluoroacetamide (1.134 g). The suspension was allowed to warm to 20° C. and stirred for 2 h. The mixture was poured onto ice (150 g) and diluted with ethyl acetate (200 ml). The biphase mixture was diluted with saturated sodium hydrogen carbonate (200 ml) and treated with sodium hydrogen carbonate (21 g). The phases were separated and the organic phase washed with saturated sodium hydrogen carbonate (150 ml×2). The combined aqueous phases were extracted with ethyl acetate (100 ml). The combined organic extracts were concentrated in vacuo. The residue was pre-absorbed onto silica and purified by biotage (90 g) eluting with 1:1 to 0:1 cyclohexane:ethyl acetate to give the title compound as a white solid (0.7129).

reactant | N-methyl-3-thiophenecarboxamide | 1.12 g | CNC(=O)C1=CSC=C1 | C6H7NOS
reactant | N-(hydroxymethyl)trifluoroacetamide | 1.134 g | OCNC(C(F)(F)F)=O | C3H4F3NO2
solvent | sulphuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | sodium hydrogen carbonate | 200 ml | C(O)([O-])=O.[Na+]
solvent | sodium hydrogen carbonate | 21 g | C(O)([O-])=O.[Na+]
product | 5-[(2,2,2-Trifluoroacetylamino)methyl]-thiophene-3-carboxylic acid methylamide | CNC(=O)C1=CSC(=C1)CNC(C(F)(F)F)=O | C9H9F3N2O2S
